US07608254B2
To a solution of 1.95 g (7 mmol) (2S,9S)-2-benzyloxyundecane-9-ol in 30 ml ethanol was added 20 mg Pd/C-catalyst. Hydrogenation was carried out over a period of 12 h at a pressure of 40 atm. After completion of the reaction, the catalyst was filtered off over silica, and the solution was concentrated in vacuo. Flash chromatography (ethyl acetate:hexane 1:1) yielded 1.2 g (6.4 mmol, 92%) (2S,9S)-undecane-2,9-diol.

reactant | (2S,9S)-2-benzyloxyundecane-9-ol | 7 mmol, 1.95 g | C(C1=CC=CC=C1)O[C@@H](C)CCCCCC[C@H](CC)O | C18H30O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (2S,9S)-undecane-2,9-diol | 6.4 mmol, 1.2 g, 92% | C[C@@H](CCCCCC[C@H](CC)O)O | C11H24O2
